US07557114B2
(a) 5-(Tetrahydro-pyran-4-yloxy)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A6(a) from 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A38(b)) and tetrahydro-4H-pyran-4-ol. White solid. MS (m/e): 264.1 ([M+H—Me2C═CH2]+, 100%)

reactant | 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)I | C13H16INO2
reactant | tetrahydro-4H-pyran-4-ol | O1CCC(CC1)O | C5H10O2
product | 5-(Tetrahydro-pyran-4-yloxy)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)OC1CCOCC1 | C18H25NO4
